US08283364B2
1-Bromo-5-chloro-3-fluoro-2-isocyanatobenzene (D6)
2-Bromo-4-chloro-6-fluoroaniline (5 mmol, 1.125 g), bis(trichloromethyl) carbonate (1.7 mmol, 0.50 g) and 1,4-dioxane (10 ml) were mixed together and the mixture was heated to 100° C. for 15 minutes; the mixture was then cooled to room temperature and it was filtered. The filtrate was concentrated to afford a mixture of products (2.2 g) containing the title compound, M++MeO=283 (LC-MS run in methanol).

reactant | 2-Bromo-4-chloro-6-fluoroaniline | 5 mmol, 1.125 g | BrC1=C(N)C(=CC(=C1)Cl)F | C6H4BrClFN
reactant | bis(trichloromethyl) carbonate | 1.7 mmol, 0.50 g | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | 1-Bromo-5-chloro-3-fluoro-2-isocyanatobenzene | BrC1=C(C(=CC(=C1)Cl)F)N=C=O | C7H2BrClFNO
